US06949642B2
Preparation of (R)-2,3,4,5-tetrahydro-1-(1H-imidazol-4-ylmethyl)-3-(phenylmethyl)-4-(2-thienylsulfonyl)-1H-1,4-benzodiazepine-7-carbonitrile, X
(R)-2,3,4,5-tetrahydro-3-(phenylmethyl)-4-(2-thienylsulfonyl)-1H- 1,4-benzodiazepine-7-carbonitrile (10 g) and imidazole-4-carboxaldehyde (2.6 g) were mixed in toluene (20 mL) at 20 to 25° C. To this stirred slurry, first trifluoroacetic acid (9.4 mL) and then trifluoroacetic acid anhydride (5.2 mL) were added sequentially while maintaining the temperature below 30° C. The biphasic mixture was vigorously stirred at 20 to 25° C. for 2 hours. Triethylsilane was then added and the reaction mixture was stirred at 20 to 25° C. until the reaction was determined to be complete according to HPLC assay. The reaction mixture was polish-filtered, e.g., through filter paper or a celite bed. The solvent was removed by evaporation, and a viscous yellow oil containing approximately 100% yield of the crude title product was collected.

reactant | (R)-2,3,4,5-tetrahydro-3-(phenylmethyl)-4-(2-thienylsulfonyl)-1H- 1,4-benzodiazepine-7-carbonitrile | 10 g | C1(=CC=CC=C1)C[C@@H]1CNC2=C(CN1S(=O)(=O)C=1SC=CC1)C=C(C=C2)C#N | C21H19N3O2S2
reactant | imidazole-4-carboxaldehyde | 2.6 g | N1C=NC(=C1)C=O | C4H4N2O
reactant | trifluoroacetic acid | 9.4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid anhydride | 5.2 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Triethylsilane | C(C)[SiH](CC)CC | C6H16Si
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-2,3,4,5-tetrahydro-1-(1H-imidazol-4-ylmethyl)-3-(phenylmethyl)-4-(2-thienylsulfonyl)-1H-1,4-benzodiazepine-7-carbonitrile | approximately 100% yield | N1C=NC(=C1)CN1C[C@H](N(CC2=C1C=CC(=C2)C#N)S(=O)(=O)C=2SC=CC2)CC2=CC=CC=C2 | C25H23N5O2S2
